US03962440
6-TRIFLUOROMETHYL-2(1H), 3(4H)-QUINOXALINEDIONE
4-Trifluoromethyl-o-phenylenediamine (8.0 grams) was added to 80 ml. of ethyl oxalate and the resulting mixture was heated to reflux and refluxed for two hours. A precipitate formed during this period. The reaction mixture was then cooled to room temperature and filtered to separate the precipitate, m.p. 344°-346°C. (dec.) The product was identified as the expected 6-trifluoromethyl- 2(1H), 3(4H)-quinoxalinedione, by IR, TLC, NMR, and microanalysis.

reactant | 4-Trifluoromethyl-o-phenylenediamine | 8.0 grams | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
reactant | ethyl oxalate | C(C(=O)[O-])(=O)OCC
product | 6-TRIFLUOROMETHYL-2(1H), 3(4H)-QUINOXALINEDIONE | FC(C=1C=C2NC(C(NC2=CC1)=O)=O)(F)F | C9H5F3N2O2
